US04831041
A solution of potassium cyanate (1.62 g) in water (5 ml) was dded dropwise to a mixture of 2-amino-6-methylbenzyl alcohol (1.37 g), water (5 ml), and acetic acid (6 ml) at room temperature. After being stirred for 2.5 hours, the resulting precipitates were collected by filtration, washed with water, and dried to give 6-methyl-2-ureidobenzyl alcohol (1.33 g).

reactant | potassium cyanate | 1.62 g | [O-]C#N.[K+]
reactant | 2-amino-6-methylbenzyl alcohol | 1.37 g | NC1=C(CO)C(=CC=C1)C | C8H11NO
reactant | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
solvent | water | 5 ml | O | H2O
solvent | water | 5 ml | O | H2O
product | 6-methyl-2-ureidobenzyl alcohol | 1.33 g | CC1=CC=CC(=C1CO)NC(=O)N | C9H12N2O2
